US07910617B2
Methyl iodide (7.7 mL, 124 mmol) was added to a solution of 2-(N,N-dimethylaminomethyl)-1-ethylpyrrol (15.6 g, 102 mmol) in ethanol (150 mL) under ice-cooling and the mixture was stirred at room temperature for 3 hours. Ethyl acetate (150 mL) was added to the reaction mixture and the precipitated crystal was collected by filtration. After the crystal was washed with ethyl acetate and dried to obtain (1-ethylpyrrol-2-yl)methyltrimethylammonium iodide (20.0 g, yield: 66%).

reactant | Methyl iodide | 124 mmol, 7.7 mL | CI | CH3I
reactant | 2-(N,N-dimethylaminomethyl)-1-ethylpyrrol | 102 mmol, 15.6 g | CN(C)CC=1N(C=CC1)CC | C9H16N2
reactant | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (1-ethylpyrrol-2-yl)methyltrimethylammonium iodide | 20.0 g, yield: 66% | [I-].C(C)N1C(=CC=C1)C[N+](C)(C)C | InChI=1S/C10H19N2.HI/c1-5-11-8-6-7-10(11)9-12(2,3)4;/h6-8H,5,9H2,1-4H3;1H/q+1;/p-1
